US06576631B1
N-(4,6-Dimethoxypyrimidin-2-yl)-4-methyl-2-nitroaniline (Compound Number 2-6)
N-formyl-4-methyl-2-nitroaniline (25.00 g) was dissolved in dimethylformamide (400 ml), and sodium hydride (60% purity, oily) (6.11 g) was added thereto at room temperature. After stirring for 10 minutes, 2-methylsulfonyl-4,6-dimethoxypyrimidine (30.28 g) was added at room temperature, followed by stirring for 3 hours. A 10% NaOH aqueous solution was added thereto, and the crystals were collected by filtration, washed with water and dried to obtain 37.50 g of the desired product as a yellow powder (m.p. 158-161° C.).

reactant | N-formyl-4-methyl-2-nitroaniline | 25.00 g | C(=O)NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C8H8N2O3
reactant | sodium hydride | 6.11 g | [H-].[Na+]
reactant | 2-methylsulfonyl-4,6-dimethoxypyrimidine | 30.28 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | NaOH | [OH-].[Na+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | N-(4,6-Dimethoxypyrimidin-2-yl)-4-methyl-2-nitroaniline | 37.50 g | COC1=NC(=NC(=C1)OC)NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C13H14N4O4
